US08003649B2
A mixture of 1-[phenyl-[4-(trifluoromethyl)phenyl]methyl]piperazine and 6-chloro-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine was allowed to react by General Synthetic Method 3. The crude product was purified by hplc using a Waters XTerra C18 column (5μ silica, 19 mm diameter, 100 mm length) eluted with decreasingly polar mixtures of water (containing 0.1% aqueous ammonia) and acetonitrile as eluents to give 6-[4-[phenyl-[4-(trifluoromethyl)phenyl]methyl]piperazin-1-yl]-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine.

reactant | 1-[phenyl-[4-(trifluoromethyl)phenyl]methyl]piperazine | C1(=CC=CC=C1)C(N1CCNCC1)C1=CC=C(C=C1)C(F)(F)F | C18H19F3N2
reactant | 6-chloro-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine | ClC=1C=CC=2N(N1)C(=NN2)C(F)(F)F | C6H2ClF3N4
product | 6-[4-[phenyl-[4-(trifluoromethyl)phenyl]methyl]piperazin-1-yl]-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine | C1(=CC=CC=C1)C(N1CCN(CC1)C=1C=CC=2N(N1)C(=NN2)C(F)(F)F)C2=CC=C(C=C2)C(F)(F)F | C24H20F6N6
